US07728025B2
6-(1-Acetylpyrrolidin-2-yl)-5-(4-(2-methyl-2H-tetrazol-5-yl)phenoxy)-2-pyridin-2-yl-1H-benzimidazole enantiomer A
0.006 ml of acetic anhydride was added to a chloroform (1 ml) solution of 24.7 mg of 5-(4-(2-methyl-2H-tetrazol-5-yl)phenoxy)-2-pyridin-2-yl-6-pyrrolidin-2-yl-1H-benzimidazole enantiomer A obtained in Example 542, and the reaction liquid was stirred at room temperature for 10 minutes. The reaction solvent was evaporated away under reduced pressure, and the resulting residue was purified through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), chloroform/methanol=10/1) to obtain one chiral form of the entitled compound as a white solid.

reactant | acetic anhydride | 0.006 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-(4-(2-methyl-2H-tetrazol-5-yl)phenoxy)-2-pyridin-2-yl-6-pyrrolidin-2-yl-1H-benzimidazole | 24.7 mg | CN1N=C(N=N1)C1=CC=C(OC2=CC3=C(NC(=N3)C3=NC=CC=C3)C=C2C2NCCC2)C=C1 | C24H22N8O
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-(1-Acetylpyrrolidin-2-yl)-5-(4-(2-methyl-2H-tetrazol-5-yl)phenoxy)-2-pyridin-2-yl-1H-benzimidazole | C(C)(=O)N1C(CCC1)C=1C(=CC2=C(NC(=N2)C2=NC=CC=C2)C1)OC1=CC=C(C=C1)C=1N=NN(N1)C | C26H24N8O2
